US05681832
A mixture of 8-hydroxyquinoline (0.055 mol, 8.0 g) and O-ethylxanthic acid potassium salt (0.056 mol, 9.0 g) in abs. EtOH (20 mL) was placed in a pressure reactor and heated at 160° C. for 40 hours. After cooling, the reaction mixture was washed with a small amount of EtOH. The insoluble material was filtered off and treated with aqueous hydrochloric acid. The insoluble thioacid was separated by filtration and purified by heating with barium carbonate in water. The mixture was filtered off, the filtrate was acidified with hydrochloric acid, and precipitate was collected by filtration to give 7-thiocarboxy-8-hydroxyquinoline (2.61 g) in 18.4% yield.

reactant | 8-hydroxyquinoline | 0.055 mol, 8.0 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | O-ethylxanthic acid potassium salt | 0.056 mol, 9.0 g | [K+].C(C)OC(=S)[S-]
solvent | EtOH | 20 mL | CCO | C2H6O
product | 7-thiocarboxy-8-hydroxyquinoline | 2.61 g, 18.4% yield | C(=S)(O)C1=CC=C2C=CC=NC2=C1O | C10H7NO2S
